US06211234B1
A solution of ethyl (RS)-4-(2-cyano-3-fluoro-5-(3-thienylmethoxy)phenoxy)-4-(2-methylphenyl)butanoate (200 mg) in methanol (20 mL) containing 1 N sodium hydroxide (5 mL) is stirred at ambient temperature for 16 hours. The reaction mixture is poured into 0.5 N HCl (30 mL) and extracted three times with ethyl acetate (30 mL). The combined organic phases are washed with brine (20 mL), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a brown oil. Crystallisation with cyclohexane gives (RS)-4-(2-cyano-3-fluoro-5-(3-thienylmethoxy)phenoxy)-4-(2-methylphenyl) butanoic acid, (70 mg) in the form of a white solid, m.p. 150-151° C. [Elemental analysis:- C,64.9, H, 4.74, N, 3.29%. Calculated:- C,64.8, H, 4.81, N, 3.13%]

reactant | ethyl (RS)-4-(2-cyano-3-fluoro-5-(3-thienylmethoxy)phenoxy)-4-(2-methylphenyl)butanoate | 200 mg | C(#N)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1F)OCC1=CSC=C1 | C25H24FNO4S
reactant | sodium hydroxide | 1 N, 5 mL | [OH-].[Na+]
reactant | HCl | 0.5 N, 30 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | (RS)-4-(2-cyano-3-fluoro-5-(3-thienylmethoxy)phenoxy)-4-(2-methylphenyl) butanoic acid | 70 mg | C(#N)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1F)OCC1=CSC=C1 | C23H20FNO4S
